US06992087B2
To a solution of methyl 6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate (1.0 g, 3.5 mmol) in CH2Cl2 (35 mL) was added N-bromsuccinimide (0.69 g, 3.86 mmol). Stir at t for 2 hr. Wash the reaction with sat. aq. NaHCO3. The organic extract was dried over MgSO4, filtered and concentrated. Purify by biotage MPLC (90 g column, 20% ethyl acetate/hexanes) to afford 380 mg (30%) of methyl 3-bromo-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate as a solid: 1H NMR (CDCl3) δ 3.01-3.06, 3.24-3.29, 4.00, 4.75-4.78, 5.45-5.46, 7.25-7.32, 7.94; MS (ESI+) for C15H14BrN3O3 m/z 386 (M+H)+.

reactant | methyl 6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate | 3.5 mmol, 1.0 g | O[C@@H]1[C@@H](C2=CC=CC=C2C1)NC1=CN=CC(=N1)C(=O)OC | C15H15N3O3
reactant | N-bromsuccinimide | 3.86 mmol, 0.69 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-bromo-6-{[(1R,2S)-2-hydroxy-2,3-dihydro-1H-inden-1-yl]amino}pyrazine-2-carboxylate | 380 mg, 30% | BrC=1C(=NC(=CN1)N[C@H]1[C@H](CC2=CC=CC=C12)O)C(=O)OC | C15H14BrN3O3
